US07601702B2
5′-[(2-chlorotrityl)amino]2′,5′-dideoxyuridine (24)
5′-Amino-2′,5′-dideoxyuridine (0.237 g, 1.04 mmol) was reacted with 2-chlorotrityl chloride (0.415 g, 1.33 mmol) in dry pyridine (5 mL) at 40° C. for 24 h. A second portion of 2-chlorotrityl chloride (0.198 g, 0.63 mmol) was added. After a further 2 h stirring at 40° C., the reaction was quenched with MeOH (2 mL). The reaction mixture was concentrated in vacuo and purified by flash column chromatography using an ISOLUTE Si column eluted with a gradient of 0→5% CH3OH in CHCl3. The fractions with Rf=0.17 (10% CH3OH/CHCl3) yielded the title compound as a white solid (85 mg, 16%).

reactant | 5′-Amino-2′,5′-dideoxyuridine | 1.04 mmol, 0.237 g | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C9H13N3O4
reactant | 2-chlorotrityl chloride | 1.33 mmol, 0.415 g | ClC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC=C1 | C19H14Cl2
reactant | 2-chlorotrityl chloride | 0.63 mmol, 0.198 g | ClC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC=C1 | C19H14Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5′-[(2-chlorotrityl)amino]2′,5′-dideoxyuridine | 85 mg, 16% | ClC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)NC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C=C2)O)C=CC=C1 | C28H26ClN3O4
